US09334279B2
To a 2 dram vial equipped with a stir bar was added 2-(4,6-dichloropyridin-2-yl)thiazole (50 mg, 0.22 mmol), p-tolylboronic acid (29 mg, 0.22 mmol), Pd(dppf)Cl2 (8 mg, 11 μmol) and K3PO4 (344 mg, 1.62 mmol). The vial was capped with a septum screw-cap and then placed under N2 atmosphere. To the vial was added THF (1 mL) and water (0.5 mL). The mixture was placed in a 60° C. oil bath with stirring for 16 h. The reaction mixture was diluted with EtOAc (5 mL) and brine (1 mL). The mixture was shaken; the aq. phase was decanted away via pipet. The organic phase was dried over MgSO4; filtered; and the filtrate was concentrated in vacuo to afford a dark amber solid. This material was subjected to silica gel chromatography (hexanes:EtOAc, 100:0 to 60:40) to afford 2-(4-chloro-6-(p-tolyl)pyridin-2-yl)thiazole as a white solid (28 mg, 45%). 1H-NMR (400 MHz, CDCl3) δ 8.12 (d, J=1.8 Hz, 1H), 8.00 (d, J=8.3 Hz, 2H), 7.96 (d, J=3.3 Hz, 1H), 7.74 (d, J=1.8 Hz, 1H), 7.50 (d, J=3.3 Hz, 1H), 7.33 (d, J=8.0 Hz, 2H), 2.44 (s, 3H).

reactant | 2-(4,6-dichloropyridin-2-yl)thiazole | 0.22 mmol, 50 mg | ClC1=CC(=NC(=C1)Cl)C=1SC=CN1 | C8H4Cl2N2S
reactant | p-tolylboronic acid | 0.22 mmol, 29 mg | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | K3PO4 | 1.62 mmol, 344 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | brine | 1 mL | [Cl-].[Na+].O
catalyst | Pd(dppf)Cl2 | 11 μmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.5 mL | O | H2O
product | 2-(4-chloro-6-(p-tolyl)pyridin-2-yl)thiazole | 28 mg, 45% | ClC1=CC(=NC(=C1)C1=CC=C(C=C1)C)C=1SC=CN1 | C15H11ClN2S
